US05049558
The cephalosporin starting material may be prepared as follows: To a stirred solution of 3-aminomethyl-7-[2-(2-aminothiazol-4-yl)-2-((Z)-1-carboxypropoxyimino)acetamido]ceph-3-em-4-carboxylic acid (more polar isomer, 2.6 g) in 2.5% (w/v) pH 5.5 sodium acetate buffer (50 ml) was added sodium cyanoborohydride (0.34 g), followed by acetaldehyde (0.3 ml) in water (5 ml) over 40 minutes. The reaction mixture was then concentrated, diluted to 50 ml with water, and the pH adjusted to 3.5 with HOAc. Careful chromatography on Diaion HP20SS, eluting with H2O/CH3CN, (92.5:7.5) gave 7-[2-(2-aminothiazol-4-yl)-2-((Z)-1-carboxypropoxyimino)acetamido]-3-ethylaminomethylceph-3-em-4-carboxylic acid, having the following n.m.r. spectrum in solvent A: 0.96 (t, 3H); 1.18 (t, 3H); 1.81 (quintet, 2H); 2.94 (q, 2H); 3.38 (d, 1H); 3.42 (d, 1H); 3.61 (d, 1H); 3.78 (d, 1H); 4.46 (t, 1H); 5.03 (d, 1H); 5.76 (d, 1H); 6.88 (s, 1H). Retention time 4.2 minutes on a reversed phase Partisil PXS 10/25 ODS-2 column, using MeOH/H2O/HOAc, 30:70:1, v/v/v, as eluant.

reactant | 3-aminomethyl-7-[2-(2-aminothiazol-4-yl)-2-((Z)-1-carboxypropoxyimino)acetamido]ceph-3-em-4-carboxylic acid | NCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(\C(=N/OC(CC)C(=O)O)\C=2N=C(SC2)N)=O)=O | C17H20N6O7S2
reactant | sodium cyanoborohydride | 0.34 g | C(#N)[BH3-].[Na+]
reactant | acetaldehyde | 0.3 ml | C(C)=O | C2H4O
solvent | sodium acetate | 50 ml, pH 5.5 | C(C)(=O)[O-].[Na+]
solvent | water | 5 ml | O | H2O
product | 7-[2-(2-aminothiazol-4-yl)-2-((Z)-1-carboxypropoxyimino)acetamido]-3-ethylaminomethylceph-3-em-4-carboxylic acid | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CNCC)C(=O)O)C1=O)=N/OC(CC)C(=O)O | C19H24N6O7S2
